US07208490B2
rel-(2R,4R,4aR)-1,2,4,4a-tetrahydro-4-methyl-8-nitro-2-(trifluoromethyl)spiro[[1,4]oxazino[4,3-a]quinoline-5(6H),5′(2′H)-pyrimidine]-2′,4′,6′(1′H,3′H)-trione
2-[cis-2-methyl-6-(trifluoromethyl)morpholin-4-yl]-5-nitrobenzaldehyde (212 mg, 0.67 mol) is combined with barbituric acid (95 mg, 0.67 mmol, Aldrich) in a vial with MeOH (3 mL). The sealed reaction is heated to 80° C. on a shaker block for 21 hours and then the solvent is removed by rotary evaporation. The product is purified on a Biotage Flash 25M+ using a 26 minute linear gradient of 2.5%–10% MTBE in CH2Cl2 eluent. The product is dried under vacuum yielding a yellow-orange solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.01, 2.93, 3.46, 3.66, 3.73, 4.04, 4.40, 4.48, 7.10, 7.88, 8.01, 11.63, 11.94.

reactant | 2-[cis-2-methyl-6-(trifluoromethyl)morpholin-4-yl]-5-nitrobenzaldehyde | 0.67 mol, 212 mg | C[C@@H]1CN(C[C@@H](O1)C(F)(F)F)C1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C13H13F3N2O4
reactant | barbituric acid | 0.67 mmol, 95 mg | N1C(=O)NC(=O)CC1=O | C4H4N2O3
solvent | MeOH | 3 mL | CO | CH4O
product | rel-(2R,4R,4aR)-1,2,4,4a-tetrahydro-4-methyl-8-nitro-2-(trifluoromethyl)spiro[[1,4]oxazino[4,3-a]quinoline-5(6H),5′(2′H)-pyrimidine]-2′,4′,6′(1′H,3′H)-trione | C[C@H]1O[C@H](CN2[C@@H]1C1(C(NC(NC1=O)=O)=O)CC1=CC(=CC=C21)[N+](=O)[O-])C(F)(F)F | C17H15F3N4O6
